US05516774
3-Methylbenzo[b]thiophene-2-acetyl chloride
A mixture of 2.0 g of 3-methylbenzo[b]thiophene-2-acetic acid and 19.4 ml of thionyl chloride is heated at reflux for 1 hour. The volatiles are evaporated in vacuo to give a residue which is concentrated from toluene three times and dried under vacuum to give 2.25 g of the desired product as a residue.

reactant | 3-methylbenzo[b]thiophene-2-acetic acid | 2.0 g | CC=1C2=C(SC1CC(=O)O)C=CC=C2 | C11H10O2S
reactant | thionyl chloride | 19.4 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-Methylbenzo[b]thiophene-2-acetyl chloride | 2.25 g | CC1=C(SC2=CC=CC=C12)CC(=O)Cl | C11H9ClOS
